US09447041B2
Preparation of 1-Cyclopentyl-2-(trifluoromethyl)benzene (Compound of Formula (IIb)), 500 g scale reaction
To a 10 L jacketed reactor was added dry THF (2.4 L) and magnesium turnings (81.0 g, 3.33 mol, 1.5 eq.) under N2. In a separate flask FeCl3 (36 g, 0.22 mol, 0.1 eq.) was dissolved in THF (150 mL) (caution, exothermic) under N2. This dark brown solution was allowed to cool to ambient temperature and then added over 10 min to the reactor content under N2 at an internal temperature of about 10° C. TMEDA (402 mL) was added to this yellow/green mixture keeping the internal temperature below about 20° C. (slightly exothermic). The resulting rust brown mixture was stirred at ambient temperature for 1 h under N2 then 1 h at 45° C. The reactor contents were allowed to cool below about 20° C. and a mixture of 1-bromo-2-(trifluoromethyl)benzene (500 g, 2.22 mol) and bromocyclopentane (397 g, 2.66 mol, 1.2 eq.) added dropwise under N2 at a rate as to maintain the internal temperature between about 25-30° C. After the addition, the reaction mixture was stirred at about 25° C. under N2 overnight, allowed to cool to an internal temperature of about 0° C. and quenched with 6 N HCl (2 L) at a rate as to maintain the internal temperature below about 15° C. (caution, exothermic). [Note: IPC's after completing the addition and stirring overnight were similar indicating that the reaction may have been completed much sooner.] After the quench, hexane (3 L) was added and the reactor contents were stirred at ambient temperature for 1 h. The phases were separated and the aqueous layer back extracted with hexane (1 L). The combined organic layers were dried (Na2SO4), slurried with silica (750 g) and filtered washing the solids with hexane (1 L). The filtrate was concentrated under reduced pressure (100 torr at 37° C.) to give an amber oil (317 g, 973 Area % by HPLC, 87.7 wt % by HPLC (contained residual hexane by NMR), corrected yield 58′%) which was used in the next step without further purification.

reactant | magnesium | 3.33 mol, 81.0 g, 1.5 eq. | [Mg] | Mg
reactant | TMEDA | 402 mL | CN(C)CCN(C)C | C6H16N2
reactant | 1-bromo-2-(trifluoromethyl)benzene | 2.22 mol, 500 g | BrC1=C(C=CC=C1)C(F)(F)F | C7H4BrF3
reactant | bromocyclopentane | 2.66 mol, 397 g, 1.2 eq. | BrC1CCCC1 | C5H9Br
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 2.4 L | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | hexane | 3 L | CCCCCC | C6H14
product | 1-Cyclopentyl-2-(trifluoromethyl)benzene | C1(CCCC1)C1=C(C=CC=C1)C(F)(F)F | C12H13F3
